US04061641
B. 1-Benzoyl-3-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea
The product may be prepared by the alternative method of treating 1-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea with benzoyl chloride following the procedure of Example 1.

reactant | 1-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea | N1C=C(C2=CC=CC=C12)C(CCCN1CCC(CC1)NC(=O)N)=O | C18H24N4O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-Benzoyl-3-[1-(4-[3-indolyl]-4-oxobutyl)piperid-4-yl]urea | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CCCC(=O)C1=CNC2=CC=CC=C12 | C25H28N4O3
